US08420642B2
[5-(4-Methanesulfonyl-phenoxy)-3-(2-methoxy-ethoxy)-pyridine-2-yl]-thiourea (0.28 mmol) is dissolved in DMF (1 ml) and chloro-acetaldehyde (1.1 eq., 55% in water) is added and stirred three hours at 100° C. After cooling to room temperature the suspension is pored into ice-water and extracted with methyl-tert.-butyl ether. The combined organic phases are washed with brine and dried over MgSO4. The solvent is removed in vacuo. [5-(4-Methanesulfonyl-phenoxy)-3-(2-methoxy-ethoxy)-pyridine-2-yl]-thiazole-2-yl-amine (“A32”) is obtained after reversed phase column chromatography (acetonitrile/water+0.1% TFA) as yellow solid in a yield of 22%. HPLC (method C): 1.52 min; LC-MS (method A): 1.37 min, 422.15 (MH+); 1H-NMR (DMSO-d5, 500 MHz): δ [ppm] 10.272 (s, 1H), 7.906 (d, 2H, J=8.8 Hz), 7.853 (d, 1H, J=2.3 Hz), 7.462 (d, 1H, J=3.7 Hz), 7.44 (d, 1H, J=2.3 Hz), 7.201 (d, 2H, J=8.8 Hz), 7.087 (d, 1H, J=3.7 Hz), 4.261 (t, 2H, J=4.5 Hz), 3.764 (t, 2H, J=4.5 Hz), 3.333 (s, 3H), 3.184 (s, 3H).

reactant | [5-(4-Methanesulfonyl-phenoxy)-3-(2-methoxy-ethoxy)-pyridine-2-yl]-thiourea | 0.28 mmol | CS(=O)(=O)C1=CC=C(OC=2C=C(C(=NC2)NC(=S)N)OCCOC)C=C1 | C16H19N3O5S2
reactant | chloro-acetaldehyde | 1.1 eq. | ClCC=O | C2H3ClO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | [5-(4-Methanesulfonyl-phenoxy)-3-(2-methoxy-ethoxy)-pyridine-2-yl]-thiazole-2-yl-amine | yield of 22% | CS(=O)(=O)C1=CC=C(OC=2C=C(C(=NC2)NC=2SC=CN2)OCCOC)C=C1 | C18H19N3O5S2
